US05053422
B) Isobutyl (E)-4-oxo-2-butenoate
To a suspension of pyridinium chlorochromate (100 g, 0.463 mol) in dichloromethane (350 ml), a solution of isobutyl (E)-4-hydroxycrotonate (50 g, 0.316 mol) in dichloromethane (150 ml) was added. The internal temperature gradually rose to 40° C. and stirring was continued for 2 hours without cooling. Diethyl ether (0.9 l) was added and the supernatant was decanted from the black gum. The insoluble residue was washed twice 300 ml portions of diethyl ether. The combined organic solutions were passed through a short pad of Florisil and the solvent was removed by distillation, to yield 45.3 g (91.6%) of the title compound, as a pale yellow oil, Rf=0.5 (silica gel plates, cyclohexane-ethyl acetate 6:4). NMR (CDCl3): deltaH =9.80 (ABX, 1H, CHO), 6.98 and 6.75 (ABX, JAB =15 Hz, 2H, CH=CH). MS (E.I., 70 eV, 1.5 mA) m/z=155 (M--H)+, 85 (M--C3H3O2)+.

reactant | pyridinium chlorochromate | 0.463 mol, 100 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | isobutyl (E)-4-hydroxycrotonate | 0.316 mol, 50 g | OC/C=C/C(=O)OCC(C)C | C8H14O3
reactant | Diethyl ether | 0.9 l | C(C)OCC | C4H10O
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | Isobutyl (E)-4-oxo-2-butenoate | 45.3 g, 91.6% | O=C/C=C/C(=O)OCC(C)C | C8H12O3
